US07452886B2
C. 6-[4-(2,4-Dimethoxy-phenyl)-piperidin-1-ylmethyl]-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
6-Bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (2.2 g) and 4-(2,4-Dimethoxy-phenyl)-piperidine (2.0 g) are dissolved in Acetone (30 ml) and potassium carbonate (3.6 g) is added to the solution. The reaction mixture is stirred for 6 h at room temperature. The mixture is diluted with ethyl acetate, washed with brine, dried over magnesium sulfate and filtrated. Ethyl acetate is evaporated and the residue is purified by column chromatography on silica gel using n-hexane:AcOEt=1:1 (v/v).

reactant | 6-Bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 2.2 g | BrCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C13H15BrN4
reactant | 4-(2,4-Dimethoxy-phenyl)-piperidine | 2.0 g | COC1=C(C=CC(=C1)OC)C1CCNCC1 | C13H19NO2
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | Acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[4-(2,4-Dimethoxy-phenyl)-piperidin-1-ylmethyl]-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | COC1=C(C=CC(=C1)OC)C1CCN(CC1)CC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C26H33N5O2
